US08802864B2
b) 5-{[(3S)-1-(2,2-dimethylpropanoyl)-3-pyrrolidinyl]methyl}-4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
Into a 8 mL screwcap vial was placed 1,1-dimethylethyl (3S)-3-({4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate (0.162 mmol). Added to the vial was 4N HCl in dioxane (1 mL). The reaction was capped and stirred at room temperature for 2 h. The solution was concentrated in vacuo. Added to the vial were dichloromethane (1 mL) and N,N-diisopropylethylamine (0.573 mmol). In a separate vial, trimethylacetyl chloride (0.163 mmol) was taken up in 1 mL dichloromethane and was added to the starting material dropwise via pipette. The vial was capped and the reaction was stirred at room temperature for 2 h. Dichloromethane (2 mL) was added to the vial, followed by the addition of saturated aq NH4Cl. The vial was capped and lightly agitated for 1 min. The organic layer was separated, filtered through a plug of sodium sulfate, and concentrated in vacuo. Reverse phase HPLC (10-80% acetonitrile/water+0.1% NH4OH) was utilized in purifying the title compound (37 mg, 50%). MS(ES)+ m/e 453.1 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-({4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 0.162 mmol | FC=1C=C(C=CC1N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C25H29FN4O4
reactant | HCl | 4N | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.573 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trimethylacetyl chloride | 0.163 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-{[(3S)-1-(2,2-dimethylpropanoyl)-3-pyrrolidinyl]methyl}-4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | CC(C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)OC)F)(C)C | C25H29FN4O3
